US06747023B1
4-[(5-Chloroindol-2-yl)sulfonyl]-1-[(5,6-dimethyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-2-(N-methylcarbamoyl)piperazine hydrochloride
In a saturated solution of hydrochloride in ethanol (2 ml) was dissolved 1-[[6-(tert-butoxycarbonyl)-5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl]carbonyl]-4-[(5-chloroindol-2-yl)sulfonyl]-2-(N-methylcarbamoyl)piperazine (40 mg), followed by stirring at room temperature for 1 hour. Diethyl ether was added to the reaction mixture. The precipitate so formed was collected by filtration and washed with diethyl ether. Methylene chloride (7 ml) and triethylamine (81 μl) were added, followed by the addition of acetic acid (34 μl). To the resulting mixture were added a 30% aqueous solution (21 μl) of formaldehyde and sodium triacetoxyborohydride (64 mg), followed by stirring at room temperature for 30 minutes. The solvent was distilled off under reduced pressure. Methylene chloride was added and the resulting mixture was washed with water and saturated aqueous NaCl solution. The organic layer was dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was dissolved in a 1N ethanol hydrochloride solution. After stirring at room temperature for 5 minutes, the solvent was distilled off under reduced pressure. The precipitate so formed was collected by filtration and washed with diethyl ether, whereby the title compound (68 mg) was obtained as a white solid.

reactant | 1-[[6-(tert-butoxycarbonyl)-5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl]carbonyl]-4-[(5-chloroindol-2-yl)sulfonyl]-2-(N-methylcarbamoyl)piperazine | 40 mg | C(C)(C)(C)OC(=O)C1CC2=C(CN1C)SC(=N2)C(=O)N2C(CN(CC2)S(=O)(=O)C=2NC1=CC=C(C=C1C2)Cl)C(NC)=O | C27H33ClN6O6S2
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | hydrochloride | Cl | ClH
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 4-[(5-Chloroindol-2-yl)sulfonyl]-1-[(5,6-dimethyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-2-(N-methylcarbamoyl)piperazine hydrochloride | Cl.ClC=1C=C2C=C(NC2=CC1)S(=O)(=O)N1CC(N(CC1)C(=O)C=1SC=2CN(C(CC2N1)C)C)C(NC)=O | InChI=1S/C23H27ClN6O4S2.ClH/c1-13-8-17-19(12-28(13)3)35-22(27-17)23(32)30-7-6-29(11-18(30)21(31)25-2)36(33,34)20-10-14-9-15(24)4-5-16(14)26-20;/h4-5,9-10,13,18,26H,6-8,11-12H2,1-3H3,(H,25,31);1H
